US05942532
To 4-phenoxybenzaldehyde (3.0 g, 0.02 mol) was added 21 mL of 40% NaHSO3 (aq). The mixture was stirred for 1 h at 25° C. Methyl-3,4-diaminobenzoate (2.5 g, 0.02 mol) and ethanol (15 mL) were added. The mixture was refluxed for 4 h. The reaction was then poured into water. The precipitate filtered and recrystallized from EtOAc to afford 2-(4-phenoxyphenyl)-1H-benzimidazole-5-carboxylic acid, methyl ester (5.06 g, 97%) as a white solid.

reactant | 4-phenoxybenzaldehyde | 0.02 mol, 3.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | NaHSO3 | 21 mL | OS(=O)[O-].[Na+]
reactant | Methyl-3,4-diaminobenzoate | 0.02 mol, 2.5 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-phenoxyphenyl)-1H-benzimidazole-5-carboxylic acid, methyl ester | 5.06 g, 97% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)OC | C21H16N2O3
